US07902187B2
3-(6-chloro-9-(trans-4-methoxycyclohexyl)-7-methyl-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile.
Dark brown solid (76% crude yield). Synthesized using 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile (0.7 g, 1.65 mmol) and iodomethane (0.6 mL, 10 mmol, 6 equiv.). MS (EI) m/z 438 (MH)+.

reactant | 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | 1.65 mmol, 0.7 g | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)[C@@H]2CC[C@H](CC2)OC)=O | C20H18ClN7O2
reactant | iodomethane | 10 mmol, 0.6 mL, 6 equiv. | IC | CH3I
product | 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-7-methyl-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | ClC1=C2N(C(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)[C@@H]2CC[C@H](CC2)OC)=O)C | C21H20ClN7O2
